$mixed param func
* Netlist tests XDM can properly parse out functions
* and parameters mixed together on the same line in 
* a .PARAM statement, and that it correct outputs 
* the parameter or function to a .PARAM or .FUNC
* statement in Xyce

.PARAM a1=11 square(X) = 'X*X' a2=3
.param multby2(x) = '2*x' a3=1
.param a4=5
.param a5=8 multby1(x)='1*x' addby17(X)='x+17'

VA 1 0 dc=0
R1 1 2 'square(a4)+addby17(a5)'
R2 2 0 'multby2(a1)+multby1(a2)'

.DC VA 0 10 1
.PRINT DC v(2)
